US09428498B2
Methyl 6-[(morpholin-4-yl)carbonyl]pyridine-3-carboxylate
5-(Methoxycarbonyl)pyridine-2-carboxylic acid (758 mg, 4.18 mmol) was dissolved in DMF (25 mL) and morpholine (603 uL, 5.23 mmol), Et3N (2.45 mL, 16.7 mmol) and HBTU (1.67 g, 4.39 mmol) were added. The reaction mixture was stirred for 16 h and concentrated in vacuo. The residue was dissolved in EtOAc (100 mL), washed with sat aq Na2CO3 (100 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography to give the title compound (914 mg, 87.3%) as a yellow oil. LCMS (ES+): 251.2 [MH]+.

reactant | 5-(Methoxycarbonyl)pyridine-2-carboxylic acid | 4.18 mmol, 758 mg | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | morpholine | 5.23 mmol, 603 uL | N1CCOCC1 | C4H9NO
reactant | Et3N | 16.7 mmol, 2.45 mL | CCN(CC)CC | C6H15N
reactant | HBTU | 4.39 mmol, 1.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl 6-[(morpholin-4-yl)carbonyl]pyridine-3-carboxylate | 914 mg, 87.3% | N1(CCOCC1)C(=O)C1=CC=C(C=N1)C(=O)OC | C12H14N2O4
